US05262541
Example 5 of EP 0,257,151 is duplicated. Water (70 ml), 97% sodium hydroxide (5.2 g), 2-nitro-2'-hydroxy-5'-methylazobenzene (12.9 g) and toluene (10 ml) are mixed and heated to 60° C. After stirring, hydroquinone (0.6 g) is added, and glucose (5.0 g) is added to the mixture over one hour at 40° to 45° C. The mixture is further stirred two hours, and the azobenzene disappears. The reaction liquor is neutralized with 62% sulfuric acid (5.8 g), and is cooled to 20° C. to precipitate a crystal. The crystal thus precipitated is separated filtration to obtain a wet product 12 g of 2-(2'-hydroxy-5'-methylphenyl)benzotriazole-N-oxide (dry weight 10.8 g, yield: 90.0%, and melting point: 138° to 140° C.).

reactant | sodium hydroxide | 5.2 g | [OH-].[Na+]
reactant | 2-nitro-2'-hydroxy-5'-methylazobenzene | 12.9 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C)O | C13H11N3O3
reactant | hydroquinone | 0.6 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | glucose | 5.0 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
reactant | sulfuric acid | 5.8 g | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | 70 ml | O | H2O
product | 2-(2'-hydroxy-5'-methylphenyl)benzotriazole-N-oxide | 12 g, yield: 90.0% | OC1=C(C=C(C=C1)C)N1N=C2C(=[N+]1[O-])C=CC=C2 | C13H11N3O2
